US05639748
Following the general procedure of Example 2, [(9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepin-6-yl) oxy]ethanol 4-methylbenzenesulfonate was heated with one equivalent of 1H-1,2,4-triazole sodium salt (prepared from 1H-1,2,4-triazole and sodium hydride in dimethylformamide) at 65° C. for 30 minutes to give 6-chloro-2,3,4,5-tetrahydro-3-methyl-9-[2-(1H-1,2,4-triazol-1-yl)ethoxy]-1H-3-benzazepine hydrochloride; mp 204°-211° C.

reactant | [(9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepin-6-yl) oxy]ethanol 4-methylbenzenesulfonate | ClC1=CC=C(C2=C1CCN(CC2)C)OC(C)O.CC1=CC=C(C=C1)S(=O)(=O)[O-]
reactant | 1H-1,2,4-triazole sodium salt | one equivalent | [Na].N1N=CN=C1
product | 6-chloro-2,3,4,5-tetrahydro-3-methyl-9-[2-(1H-1,2,4-triazol-1-yl)ethoxy]-1H-3-benzazepine hydrochloride | Cl.ClC1=CC=C(C=2CCN(CCC21)C)OCCN2N=CN=C2 | InChI=1S/C15H19ClN4O.ClH/c1-19-6-4-12-13(5-7-19)15(3-2-14(12)16)21-9-8-20-11-17-10-18-20;/h2-3,10-11H,4-9H2,1H3;1H
